US08633207B2
To 2-(difluoro(5-fluoropyridin-2-yl)methyl)-7-methylquinazolin-4-ol (413 mg, 1.35 mmol) were added Lawesson's reagent (820 mg, 2.03 mmol) and pyridine (3.5 mL), and the mixture was heated at 170° C. in a microwave reactor for 20 min. The mixture was partitioned between EtOAc (30 mL) and saturated aq NaHCO3 (50 mL), and the separated aqueous phase was extracted with EtOAc (2×30 mL). The combined organic layers were washed with 2N HCl and brine, dried over Na2SO4, and concentrated under reduced pressure onto Celite. The mixture was purified by silica get chromatography eluting with 0-30% EtOAc/hexanes to afford 2-(difluoro(5-fluoropyridin-2-yl)methyl)-7-methylquinazoline-4-thiol as an impure mixture (0.249 g). LCMS (ESI) m/z 322 (M+H)+.

reactant | 2-(difluoro(5-fluoropyridin-2-yl)methyl)-7-methylquinazolin-4-ol | 1.35 mmol, 413 mg | FC(C1=NC2=CC(=CC=C2C(=N1)O)C)(C1=NC=C(C=C1)F)F | C15H10F3N3O
reactant | Lawesson's reagent | 2.03 mmol, 820 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | pyridine | 3.5 mL | N1=CC=CC=C1 | C5H5N
product | 2-(difluoro(5-fluoropyridin-2-yl)methyl)-7-methylquinazoline-4-thiol | FC(C1=NC2=CC(=CC=C2C(=N1)S)C)(C1=NC=C(C=C1)F)F | C15H10F3N3S
